Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
headache 
 
Major Surgical or Invasive Procedure:
___ - Angiogram for Embolization of Cerebellar Tumor
___ - Placement of Right frontal EVD
___ - posterior fossa craniotomy for resection of tumor

 
History of Present Illness:
___ year old female presents with progressively worsening 
headaches x 8 months, associated with nausea and gait 
instability. She was initially diagnosed with BPPV, but her PCP 
sent her to ED given progressive symptoms. MRI revealed large 
right cerebellar lesion.
 
Past Medical History:
IBS 
 
Social History:
___
Family History:
Relative Status       Problem                   Comments       
Mother   Living       HYPERTENSION                              

Father   Living                                                 

MGM                   MYOCARDIAL                 between 40-50  
                      INFARCTION                 yrs old, w/ tob

PGF                   ESOPHAGEAL CANCER                         

Aunt                  DIABETES MELLITUS          maternal       

Uncle                 DIABETES MELLITUS          maternal x2    

Brother               ___'S                               
                      THYROIDITIS     
 
Physical Exam:
---------------
on admission:
---------------
HR: 83   BP: 127/90  RR: 14   O2: 100% RA 

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils:  PERRL ___       
EOMs: Intact. notable for sustained nystagmus in bilateral
directions, and upward gaze

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 6 to 5mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally - notable
for sustained nystagmus in bilateral directions, and upward gaze
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, heel to shin. Ataxic
gait with walking. 

---------------
at discharge:
---------------

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right: ___ brisk      Left: 4.5-3.5 brisk

EOM: intact, slight nystagmus lateral gaze right > left. minimal
nystagmus noted with upgaze.

Face Symmetric: [x]Yes [ ]No

Tongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No (previously R pronation, not
appreciated today)   
  
Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No 

Motor:
TrapDeltoidBicepTricepGrip
Right55       5       5       5
___

IPQuadHamATEHLGast
Right___
Left5       5       5       5       5       5   

[x]Sensation intact to light touch

RUE dysmetria not appreciated today.

Wound: clean, intact and open to air, closed with sutures. well
approximated, no erythema or drainage noted

 
Pertinent Results:
Please see OMR for pertinent results 
 
Brief Hospital Course:
Ms. ___ is a ___ female who p/w headaches and ataxia, found 
to have large cerebellar lesion and was admitted to neurosurgery 
floor for further work up. 

#Cerebellar lesion
MRI was suggestive of cerebellar hemangioblastoma. She underwent 
screening for ___ syndrome with MRI spine to look 
for spinal tumors and CT torso to evaluate for adrenal tumors; 
MRI spine and CT torso were both negative. Headaches were 
treated with fioricet and nausea was treated with reglan and 
zofran with good effect. The patient underwent cerebral 
angiogram on ___ for embolization of the cerebellar tumor. 
After the procedure the patient was noted to have a left lateral 
gaze preference, continued nystagmus, new bilateral dymetria, 
right pronator drift, nausea, blurred vision, and worsening 
headaches. A STAT NCHCT was ordered and she was transferred to 
the neuro ICU for close monitoring. CT head showed unchanged 
obstructive hydrocephalus with transependymal flow of CSF 
however given the patients worsened symptoms a right frontal EVD 
was placed. She was intubated for the procedure and given 
mannitol. EVD was lowered to 15. A MRI WAND study was performed 
prior to OR for posterior fossa craniotomy for resection of the 
lesion. The patient tolerated the procedure well. Please see 
separately dictated operative report by Dr. ___ complete 
details of the procedure. After surgery she was transferred back 
to the neuro ICU for further care. A post-op head CT showed 
expected post-op changes and the patient was extubated that 
evening. Patient was given two 500cc boluses and IV metoprolol 
for persistent tachycardia with good effect. Patient passed a 
bedside swallow eval and was started on a regular diet. Her 
foley and A-line were removed. A post-op MRI showed expected 
post-op changes and possible recurrent residual tumor, follow-up 
imaging was recommened (patient has follow-up on ___. On 
___, the patient remained neurologically stable on examination. 
The arterial line and foley catheter were discontinued. The 
patient continued with EVD in place, which was slowly weaned. On 
___, the EVD was clamped which the patient tolerated well, and 
on ___ it was removed. On ___, the patient continued to do 
well and was cleared by physical therapy for discharge to home 
with outpatient vestibular ___. It was deemed the patient was 
safe and ready for discharge with appropriate follow-up. 

#Eustachian tube dysfunction
The patient reported symptoms of muffled hearing on the right 
with otitis media. She was provided the information to set up 
outpatient follow-up with ___ audiology and otolaryngology 
should her symptoms persist. 

 
Medications on Admission:
NORGESTIMATE-ETHINYL ESTRADIOL 0.25 mg-35 mcg tablet daily
MVI daily 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Bisacodyl 10 mg PO DAILY  
3.  Dexamethasone 2 mg PO DAILY Duration: 2 Doses 
___: 1mg PO q12h
___: 1mg PO q12h
___: 1mg PO qAM
___: 1mg PO qAM  
This is dose # 2 of 3 tapered doses
RX *dexamethasone 1 mg 1 tablet(s) by mouth as directed Disp #*6 
Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Famotidine 20 mg PO BID 
last dose ___ ___  
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*9 
Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Senna 8.6 mg PO BID  
8.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: will DC dilaudid
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*30 Tablet Refills:*0 
9.  Multivitamins 1 TAB PO DAILY  
10.Outpatient Physical Therapy
Outpatient vestibular physical therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cerebellar hemangioblastoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
You underwent surgery to remove a brain lesion from your 
brain. 
Please keep your incision dry until your sutures/staples are 
removed. 
You may shower at this time but keep your incision dry.
It is best to keep your incision open to air but it is ok to 
cover it when outside. 
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
You may gradually return to your normal activities, but we 
recommend you take it easy to avoid bleeding from your groin.
Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
Do not go swimming or submerge yourself in water for five (5) 
days after your embolization procedure.
You make take a shower.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
You are being discharged on the end of your dexamethasone 
taper. Please complete this medication course as directed. You 
should take this medication consistently and on time. You should 
take famotidine while on this medication, and can discontinue 
the famotidine once the dexamethasone is finished. 

What You ___ Experience:
You may experience headaches and incisional pain. 
You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
Feeling more tired or restlessness is also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___